US07179823B1
Sodium hydride (60%, oily, 200.0 mg) was added to a solution of 1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-4-phenylpyrrole-3-carbaldehyde (1.35 g) and ethyl diethylphosphonoacetate (1.10 g) in N,N-dimethylformamide (30 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ice water, then neutralized using 2N hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatograpy, and ethyl (E)-3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-4-phenyl-3-pyrrolyl]propenoate (1.35 g, yield: 85%) was obtained as an oily substance from the fraction eluted with acetone-hexane (1:2, volume ratio).

reactant | Sodium hydride | 200.0 mg | [H-].[Na+]
reactant | 1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-4-phenylpyrrole-3-carbaldehyde | 1.35 g | CN(C1=NC=CC=C1)CCOC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)C=O)C=C1 | C26H25N3O2
reactant | ethyl diethylphosphonoacetate | 1.10 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl (E)-3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-4-phenyl-3-pyrrolyl]propenoate | 1.35 g, yield: 85% | CN(C1=NC=CC=C1)CCOC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)/C=C/C(=O)OCC)C=C1 | C30H31N3O3
